US05733923
By the method used in Example 1, Part D, 1.25 g (3.7 mmol) of 1-([1,1'-biphenyl]-2-ylmethyl)-2-cyclopropyl-4-methoxyl-1H-indole was O-demethylated by treating it with 15 mL of 1M BBr3 /CH2 Cl2. The crude product was chromatographed on silica gel and eluted with 20% EtOAc/hexane to give 367 mg (29% yield) of 1-([1,1'-biphenyl]-2-ylmethyl)-2-cyclopropyl-4-hydroxy-1H-indole as an oil.

reactant | 1-([1,1'-biphenyl]-2-ylmethyl)-2-cyclopropyl-4-methoxyl-1H-indole | 3.7 mmol, 1.25 g | C1(=C(C=CC=C1)CN1C(=CC2=C(C=CC=C12)OC)C1CC1)C1=CC=CC=C1 | C25H23NO
reactant | BBr3 | 1M, 15 mL | B(Br)(Br)Br | BBr3
reactant | Cl2 | ClCl | Cl2
product | 1-([1,1'-biphenyl]-2-ylmethyl)-2-cyclopropyl-4-hydroxy-1H-indole | 367 mg, 29% yield | C1(=C(C=CC=C1)CN1C(=CC2=C(C=CC=C12)O)C1CC1)C1=CC=CC=C1 | C24H21NO
